US07410985B2
Preparation of 3-(benzyloxy)-N-cyclobutyl-6-methyl-4-oxo-4H-pyran-2-carboxamide
A mixture of 3-(benzyloxy)-6-methyl-4-oxo-4H-pyran-2-carboxylic acid (2.5 g, 9.6 mmol, 1.0 equiv), 1,1′-carbonyldiimidazole (2.49 g, 15.37 mmol, 1.6 equiv) in DMF (20 mL) was stirred at 50° C. for 5 h. The mixture was cooled to room temperature. Cyclobutylamine hydrochloride (1.24 g, 11.52 mmol, 1.2 equiv) and Et3N (1.74 mL, 12.48 mmol, 1.3 equiv) was added, and the mixture was stirred overnight at room temperature. The solvent was removed under reduced pressure. Purification by chromatography (1:1 hexanes/EtOAc, then EtOAc) provided the titled compound (2.76 g, 91.56%) as a yellow solid.

reactant | 3-(benzyloxy)-6-methyl-4-oxo-4H-pyran-2-carboxylic acid | 9.6 mmol, 2.5 g, 1.0 equiv | C(C1=CC=CC=C1)OC1=C(OC(=CC1=O)C)C(=O)O | C14H12O5
reactant | 1,1′-carbonyldiimidazole | 15.37 mmol, 2.49 g, 1.6 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Cyclobutylamine hydrochloride | 11.52 mmol, 1.24 g, 1.2 equiv | Cl.C1(CCC1)N
reactant | Et3N | 12.48 mmol, 1.74 mL, 1.3 equiv | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(benzyloxy)-N-cyclobutyl-6-methyl-4-oxo-4H-pyran-2-carboxamide | 2.76 g, 91.56% | C(C1=CC=CC=C1)OC1=C(OC(=CC1=O)C)C(=O)NC1CCC1 | C18H19NO4
